US05552476
Preparation of Dodecyltris(2-(2-(2-methoxyethoxy)ethoxy)ethoxy)silane
The procedure of Example 1 was repeated with 151.8 g (0.50 mole) of dodecyltrichlorosilane and 200 g. of heptane. Under nitrogen 254.2 g (1.55 mole) of 2-(2-(2-methoxyethoxy)ethoxy)ethanol was added over 3 hours at 80° C. followed by heating of the reaction for an additional 48 hours. Vacuum stripping of all volatiles left 350 g of the clear, pale yellow liquid product.

reactant | dodecyltrichlorosilane | 0.50 mole, 151.8 g | C(CCCCCCCCCCC)[Si](Cl)(Cl)Cl | C12H25Cl3Si
reactant | 2-(2-(2-methoxyethoxy)ethoxy)ethanol | COCCOCCOCCO | C7H16O4
solvent | heptane | CCCCCCC | C7H16
product | Dodecyltris(2-(2-(2-methoxyethoxy)ethoxy)ethoxy)silane | C(CCCCCCCCCCC)[Si](OCCOCCOCCOC)(OCCOCCOCCOC)OCCOCCOCCOC | C33H70O12Si
